US03992440
The mixture of 5.1 g of 4-(4-acetamidophenylmercapto)-3-n-butylamino-5-n-butylsulfamoyl benzoic acid and 75 ml of 2N aqueous sodium hydroxide is refluxed for 2 hours under nitrogen and filtered after cooling to room temperature. The filtrate is acidified with glacial acetic acid to pH=4, the precipitate filtered off and recrystallized several times from aqueous ethanol. It is dissolved in the minimum amount of 2N aqueous sodium hydroxide, chromatographed on silica gel and the column eluted with ethyl acetate-methanol-saturated aqueous amonia (65: 25: 10), to yield the 4-(4-amino-phenylmercapto)-3-n-butylamino-5-n-butylsulfamoylbenzoic acid of the formula ##SPC17##

reactant | 4-(4-acetamidophenylmercapto)-3-n-butylamino-5-n-butylsulfamoyl benzoic acid | 5.1 g | C(C)(=O)NC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1S(NCCCC)(=O)=O)NCCCC | C23H31N3O5S2
reactant | sodium hydroxide | 2N, 75 ml | [OH-].[Na+]
product | 4-(4-amino-phenylmercapto)-3-n-butylamino-5-n-butylsulfamoylbenzoic acid | NC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1S(NCCCC)(=O)=O)NCCCC | C21H29N3O4S2
